US05488055
A mixture of 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine (0.5 g, 1.5 mmol), DMSO (5 ml) and KOH (0.5 g) was stirred at room temperature for 20 minutes, then ethyl 2-bromopropionate (0.2 ml) was added and the mixture was stirred overnight. The reaction mixture was poured into 10 volumes of water, extracted with CH2Cl2 (2×10 ml) and the aqueous layer was acidified with acetic acid. A precipitate formed which was collected by filtration, dissolved in methanol and filtered. The filtrate was allowed to stand and the product which precipitated was collected by filtration and dried to afford 180 mg of 1-ethyl-6-(1-carboxyethoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine.1/4 hydrate, m.p. 280° C. (dec.).

reactant | 1-ethyl-6-hydroxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 1.5 mmol, 0.5 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)O | C19H24N4O
reactant | DMSO | 5 ml | CS(=O)C | C2H6OS
reactant | KOH | 0.5 g | [OH-].[K+]
reactant | ethyl 2-bromopropionate | 0.2 ml | BrC(C(=O)OCC)C | C5H9BrO2
solvent | water | O | H2O
product | 1-ethyl-6-(1-carboxyethoxy)-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 180 mg | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)OC(C)C(=O)O | C22H28N4O3
